US04948899
2,6-Dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(3-acetylthiopropyl) ester
To a solution of 0.30 g of thioacetic acid in 20 ml of N,N-dimethylformamide cooled on ice was added 0.50 g of potassium carbonate, and the mixture was stirred for 10 minutes. Then, 0.90 g of 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(3-bromopropyl) ester was added , and the mixture was stirred at room temperature for 24 hours. The reaction solution was poured into water and extracted with dichloromethane. The organic layer was washed with water and brine successively,m and dried over magnesium sulfate.

reactant | thioacetic acid | 0.30 g | C(C)(=S)O | C2H4OS
reactant | potassium carbonate | 0.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(3-bromopropyl) ester | 0.90 g | BrCCCOC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C19H21BrN2O6
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2,6-Dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(3-acetylthiopropyl) ester | C(C)(=O)SCCCOC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C21H24N2O7S
